US07737141B2
Synthesis of (2R,5S)-5-(3,4,5-trifluorophenyl)-pyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-ethyl ester
A dimethylformamide (120 mL) solution containing (2R,5S)-5-(3,4,5-trifluorophenyl)pyrrolidine-2-carboxylic acid ethyl ester (11.98 g), triethylamine (10.5 mL) and di-t-butyldicarbonate (13.4 g) was stirred for 5 hours at room temperature. To the reaction mixture was then added imidazole (1.79 g), and the mixture was stirred for 20 minutes at room temperature. The resultant solution was then diluted with water and ethyl acetate, and the organic layer was partitioned. The organic layer was successively washed with 0.2 N hydrochloric acid (twice) and brine, and then dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure, and the resulting residue was passed through a silica pad. The filtrate was concentrated under reduced pressure to thereby obtain the titled compound (16.4 g). The physical properties of the compound were as follows.

reactant | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
reactant | (2R,5S)-5-(3,4,5-trifluorophenyl)pyrrolidine-2-carboxylic acid ethyl ester | 11.98 g | C(C)OC(=O)[C@@H]1N[C@@H](CC1)C1=CC(=C(C(=C1)F)F)F | C13H14F3NO2
reactant | di-t-butyldicarbonate | 13.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | imidazole | 1.79 g | N1C=NC=C1 | C3H4N2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 10.5 mL | C(C)N(CC)CC | C6H15N
product | (2R,5S)-5-(3,4,5-trifluorophenyl)-pyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-ethyl ester | 16.4 g | CCOC(=O)[C@@H]1N([C@@H](CC1)C1=CC(=C(C(=C1)F)F)F)C(=O)OC(C)(C)C | C18H22F3NO4
